US07217730B2
5-Cyano-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid Ethyl Ester
5-Bromo-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester (496 mg, 1.20 mmol) and CuCN (162 mg, 1.81 mmol) was dissolved in N-methyl-2-pyrrolidinone (6 mL) and the solution was divided into the 2 microwave reaction vessels (3.0 mL each). The reaction vessels were heated in microwave at 220° C. for 15 minutes. The reaction mixtures in 2 vessels were combined and then diluted with water (10 mL). The crude mixture was extracted with EtOAc (3×20 mL). The combined organic phase was washed with brine (50 mL), dried over Na2SO4 and concentrated. The residue was purified by flash chromatography (silica, 25% EtOAc in hexanes) to give 404 mg (94%) of title compound as a white solid. 1H NMR (DMSO): 300 MHz δ 12.02 (bs, 1H), 11.33 (bs, 1H), 7.00 (d, J=9.00 Hz, 1H), 3.96 (m, 2H), 2.95 (d, J=10.3 Hz, 1H), 2.83 (t, J=3.9 Hz, 1H), 2.72 (d, J=10.3 Hz, 1H), 2.54 (s, 3H), 1.99 (m, 2H), 1.28 (m, 1H), 0.85 (m, 1H), 0.79 (t, J=5.41 Hz, 3H).

reactant | 5-Bromo-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic acid ethyl ester | 1.20 mmol, 496 mg | C(C)OC(CC1(OCCC2=C1NC1=C(C=C(C(=C21)Br)F)C)CCC)=O | C19H23BrFNO3
reactant | CuCN | 1.81 mmol, 162 mg | C(#N)[Cu]
solvent | N-methyl-2-pyrrolidinone | 6 mL | CN1C(CCC1)=O | C5H9NO
solvent | water | 10 mL | O | H2O
product | 5-Cyano-6-fluoro-8-methyl-1-propyl-1,3,4,9-tetrahydropyrano[3,4-b]indole-1-acetic Acid Ethyl Ester | 404 mg, 94% | C(C)OC(CC1(OCCC2=C1NC1=C(C=C(C(=C21)C#N)F)C)CCC)=O | C20H23FN2O3
